US09328138B2
(1aR,5S,8S,10R,22aR)-5-tert-butyl-N-[(1R,2S)-2-ethenyl-1-{[(1-methylcyclopropyl)sulfonyl]carbamoyl}cyclopropyl]-17-[2-(morpholin-4-yl)ethoxy]-3,6-dioxo-14-(propan-2-yl)-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoline-8-carboxamide
The title compound was prepared using the same method as described in Example 42, using the 4-(2-bromoethyl)morpholine and (1aR,5S,8S,10R,22aR)-5-tert-butyl-N-[(1R,2S)-2-ethenyl-1-{[(1-methylcyclopropyl)sulfonyl]carbamoyl}cyclopropyl]-17-hydroxy-3,6-dioxo-14-(propan-2-yl)-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoline-8-carboxamide (synthesized in the same way as Example 120 but using intermediates A2, B10 and C9). LRMS (ES+) m/z 921.55 (M+H)+.

reactant | 4-(2-bromoethyl)morpholine | BrCCN1CCOCC1 | C6H12BrNO
reactant | (1aR,5S,8S,10R,22aR)-5-tert-butyl-N-[(1R,2S)-2-ethenyl-1-{[(1-methylcyclopropyl)sulfonyl]carbamoyl}cyclopropyl]-17-hydroxy-3,6-dioxo-14-(propan-2-yl)-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoline-8-carboxamide | C(C)(C)(C)[C@@H]1NC(O[C@H]2[C@H](CCCCCC=3C(=NC=4C=C(C=CC4C3O)C(C)C)O[C@@H]3C[C@H](N(C1=O)C3)C(=O)N[C@]3([C@@H](C3)C=C)C(NS(=O)(=O)C3(CC3)C)=O)C2)=O | C42H57N5O9S
product | (1aR,5S,8S,10R,22aR)-5-tert-butyl-N-[(1R,2S)-2-ethenyl-1-{[(1-methylcyclopropyl)sulfonyl]carbamoyl}cyclopropyl]-17-[2-(morpholin-4-yl)ethoxy]-3,6-dioxo-14-(propan-2-yl)-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoline-8-carboxamide | C(C)(C)(C)[C@@H]1NC(O[C@H]2[C@H](CCCCCC=3C(=NC=4C=C(C=CC4C3OCCN3CCOCC3)C(C)C)O[C@@H]3C[C@H](N(C1=O)C3)C(=O)N[C@]3([C@@H](C3)C=C)C(NS(=O)(=O)C3(CC3)C)=O)C2)=O | C48H68N6O10S
